US08957069B2
1-(7-Ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methylphenyl)piperazine
By using 5-bromo-7-ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran (570 mg, 2.0 mmol) synthesized in Reference example 84 and 1-(4-methylphenyl)piperazine (704 mg, 4.0 mmol), the reaction was carried out in the same manner as Example 21 to synthesize the title compound 327 mg (yield 43%).

reactant | 5-bromo-7-ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran | 2.0 mmol, 570 mg | BrC=1C(=C(C2=C(CC(O2)C)C1C)OCC)C | C13H17BrO2
reactant | 1-(4-methylphenyl)piperazine | 4.0 mmol, 704 mg | CC1=CC=C(C=C1)N1CCNCC1 | C11H16N2
product | 1-(7-Ethoxy-2,4,6-trimethyl-2,3-dihydro-1-benzofuran-5-yl)-4-(4-methylphenyl)piperazine | 327 mg, yield 43% | C(C)OC1=C(C(=C(C=2CC(OC21)C)C)N2CCN(CC2)C2=CC=C(C=C2)C)C | C24H32N2O2
